US08034953B2
N-{4-[[(3-Chlorophenyl)amino](hydroxyimino)methyl]-1,2,5-oxadiazol-3-yl}-2-phenylacetamide
A solution of 3-(4-amino-1,2,5-oxadiazol-3-yl)-4-(3-chlorophenyl)-1,2,4-oxadiazol-5(4H)-one (30.0 mg, 0.107 mmol) and 4-dimethylaminopyridine (2.6 mg, 0.021 mmol) in pyridine (0.50 mL) was treated with benzeneacetyl chloride (42.6 μL, 0.322 mmol) and stirred for 4 h. The reaction mixture was concentrated and rediluted with ethanol (1.0 mL) and 2 M of sodium hydroxide in water (0.30 mL) stirred for 45 min. Purification of the crude reaction mixture by preparative HPLC gave the desired product (18 mg, 45%). LCMS for C17H15ClN5O3 (M+H)+: m/z=371.9.

reactant | 3-(4-amino-1,2,5-oxadiazol-3-yl)-4-(3-chlorophenyl)-1,2,4-oxadiazol-5(4H)-one | 0.107 mmol, 30.0 mg | NC=1C(=NON1)C1=NOC(N1C1=CC(=CC=C1)Cl)=O | C10H6ClN5O3
reactant | benzeneacetyl chloride | 0.322 mmol, 42.6 μL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
catalyst | 4-dimethylaminopyridine | 0.021 mmol, 2.6 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 0.50 mL | N1=CC=CC=C1 | C5H5N
product | N-{4-[[(3-Chlorophenyl)amino](hydroxyimino)methyl]-1,2,5-oxadiazol-3-yl}-2-phenylacetamide | 18 mg, 45% | ClC=1C=C(C=CC1)NC(C=1C(=NON1)NC(CC1=CC=CC=C1)=O)=NO | C17H14ClN5O3
